US08242280B2
Step 3: Synthesis of (dimethylcarbamoyl-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-methyl)-methyl-carbamic acid tert-butyl ester
To a solution of (tert-butoxycarbonyl-methyl-amino)-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid, (100 mg, 0.16 mmol), dimethylamine (2 N in THF, 0.12 mL, 0.24 mmol), and diisopropylethylamine (31 mg, 0.24 mmol) in THF (2 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N-tetramethyluronium hexafluorophosphate (91 mg, 0.24 mmol.). The resulting suspension was heated to 60° C. with stirring until all was dissolved. The solvent was evaporated and the residue was used in next step without purification. MS: m/z 646 (M+H+).

reactant | (tert-butoxycarbonyl-methyl-amino)-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid | 0.16 mmol, 100 mg | C(C)(C)(C)OC(=O)N(C)C(C(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C33H42N4O6Si
reactant | dimethylamine | 0.24 mmol, 2 N, 0.12 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.24 mmol, 31 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (dimethylcarbamoyl-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-methyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C(C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C)C(N(C)C)=O)=O | C35H47N5O5Si
